US03944531
thio-m-cresol is reacted with 1-bromo-3,7-dimethyl-octa-2,6-diene to produce 3,7-dimethyl-octa-2,6-dienyl m-tolyl sulphide (b.p. 122°C/0.07 mmHg);

reactant | thio-m-cresol | C1=C(C=CC=C1S)C | C7H8S
reactant | 1-bromo-3,7-dimethyl-octa-2,6-diene | BrCC=C(CCC=C(C)C)C | C10H17Br
product | 3,7-dimethyl-octa-2,6-dienyl m-tolyl sulphide | C1(=CC(=CC=C1)SCC=C(CCC=C(C)C)C)C | C17H24S
